US07306928B2
Enzymatic Assays Using Fluorescein and Oregon Green Fluorophore Labels
PKA was diluted in 20 mM HEPES, pH 7.4, w/0.05% TX-100 and incubated in a final reaction buffer consisting of 20 mM HEPES, pH 7.4, 0.1 mM cAMP, 1 mM ATP, 5 mM MgCl2, 1 mM DTT with either fluorescein Kemptide (71.25 uM) or Oregon Green Kemptide as the enzymatic substrate at a final concentration of 71.25 or 114.25 μM, respectively, with a final reaction volume of 30 μl, for a reaction time of 1 hour in a 96 well plate format using an opaque white plate. Subsequently, 120 μl of 0.25×Fe(III) working reagent prepared according to Example I was added to the enzymatic reaction mixture and the fluorescence was measured using a 485/538 ex/em filter set. The results are shown in FIGS. 14 and 15.

reactant | cAMP | 0.1 mM, pH 7.4 | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@H]4[C@H](O3)COP(=O)(O4)O)O)N | C10H12N5O6P
reactant | ATP | 1 mM | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H16N5O13P3
reactant | MgCl2 | 5 mM | [Mg+2].[Cl-].[Cl-]
reactant | DTT | 1 mM | C([C@H]([C@@H](CS)O)O)S | C4H10O2S2
reactant | fluorescein Kemptide | 71.25 uM | C=1C=CC(=C(C1)C2=C3C=CC(=O)C=C3OC4=C2C=CC(=C4)O)C(=O)O.C[C@@H](C(=O)N[C@@H](CO)C(=O)N[C@@H](CC(C)C)C(=O)NCC(=O)O)NC(=O)[C@H](CCCNC(=N)N)NC(=O)[C@H](CCCNC(=N)N)NC(=O)[C@H](CC(C)C)N
reactant | Kemptide | C[C@@H](C(=O)N[C@@H](CO)C(=O)N[C@@H](CC(C)C)C(=O)NCC(=O)O)NC(=O)[C@H](CCCNC(=N)N)NC(=O)[C@H](CCCNC(=N)N)NC(=O)[C@H](CC(C)C)N | C32H61N13O9
solvent | HEPES | 20 mM | C1CN(CCN1CCO)CCS(=O)(=O)O | C8H18N2O4S
solvent | HEPES | 20 mM | C1CN(CCN1CCO)CCS(=O)(=O)O | C8H18N2O4S
product | Fluorescein | C=1C=CC(=C(C1)C2=C3C=CC(=O)C=C3OC4=C2C=CC(=C4)O)C(=O)O | C20H12O5
